US05008280
3-(2-tert-Butylthioethyl)-2-imino-6-trifluoromethoxybenzothiazoline hydrochloride (1.5 g) and 47% strength hydrobromic acid (15 cc) are heated for 4 hours to 100° C. After cooling of the mixture to 0° C., the precipitate formed is filtered off and washed with distilled water (2×25 cc) and then with ethyl ether (2×30 cc). 2-(2-Imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanethiol hydrobromide (0.9 g), m.p. 180° C., is obtained.

reactant | 3-(2-tert-Butylthioethyl)-2-imino-6-trifluoromethoxybenzothiazoline hydrochloride | 1.5 g | Cl.C(C)(C)(C)SCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N
reactant | hydrobromic acid | 15 cc | Br | BrH
product | 2-(2-Imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanethiol hydrobromide | 0.9 g | Br.N=C1SC2=C(N1CCS)C=CC(=C2)OC(F)(F)F | InChI=1S/C10H9F3N2OS2.BrH/c11-10(12,13)16-6-1-2-7-8(5-6)18-9(14)15(7)3-4-17;/h1-2,5,14,17H,3-4H2;1H
